US06380218B1
2-(5-Chloro-pyridin-3-yloxy)-N-cyclopropylmethyl-nicotinamide
To a stirred solution of 2-(5-chloro-pyridin-3-yloxy)-nicotinic acid (0.200 grams, 0.88 mmole), aminomethylcyclopropane hydrochloride (0.094 grams, 0.88 mmole), triethylamine (0.089 grams, 0.88 mmole) and 1-hydroxybenzotriazole hydrate (0.119 grams, 0.88 mmole) in dry dimethylformamide (3 ml) was added 1-(3-dimethylamino)-propyl)-3-ethylcarbodiimide hydrochloride (0.164 grams, 0.96 mmole) and stirred over night. The mixture was poured into 100 ml water and extracted with ethyl acetate. The combined organics were washed with 1 N NaOH, water and brine, dried over MgSO4, filtered and concentrated to give an oil that was purified by chromatography on silica gel eluting with 2.5% methanollmethylene chloride. Recrystalization from ethyl acetate/hexane gave a white solid (0.163 g). M.P. 105-107° C.; Anal. calcd. for C15H14N3O2Cl: C, 59.31;H, 4.65; N, 13.83. Found: C, 59.41;H, 4.68; N, 13.44.

reactant | 2-(5-chloro-pyridin-3-yloxy)-nicotinic acid | 0.88 mmole, 0.200 grams | ClC=1C=C(C=NC1)OC1=C(C(=O)O)C=CC=N1 | C11H7ClN2O3
reactant | aminomethylcyclopropane hydrochloride | 0.88 mmole, 0.094 grams | Cl.NCC1CC1
reactant | triethylamine | 0.88 mmole, 0.089 grams | C(C)N(CC)CC | C6H15N
reactant | 1-hydroxybenzotriazole hydrate | 0.88 mmole, 0.119 grams | O.ON1N=NC2=C1C=CC=C2
reactant | 3-ethylcarbodiimide hydrochloride | 0.96 mmole, 0.164 grams | Cl.C(C)N=C=N
solvent | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
solvent | water | 100 ml | O | H2O
product | 2-(5-Chloro-pyridin-3-yloxy)-N-cyclopropylmethyl-nicotinamide | 0.163 g | ClC=1C=C(C=NC1)OC1=C(C(=O)NCC2CC2)C=CC=N1 | C15H14ClN3O2
